US04057647
1 g. of 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid is dissolved in 25 ml. of dioxane. 0.1 g. of PtO2 is added and the hydrogenation is carried out at 20° under normal pressure until hydrogen absorption has ceased. The mixture is filtered and the filtrate is evaporated to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H12F2O2
catalyst | PtO2 | O=[Pt]=O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
